data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
707,768,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[O-:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[O:21][N:19]([CH3:20])[C:17]3([C:15]([O:14][CH3:13])=[O:16])[CH3:18],water,298.15,32.56960553065352,-15.217106307186468
1470,1623,[CH3:15][NH:16][C:17](=[O:18])[N-:19][N+:20]#[C:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)=[N:20][N:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,23.89446700650604,-38.84484355508848
1730,1915,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([NH+:18]=[CH:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2]/[C:3]([C:4]([CH3:5])=[O:6])=[C:7](/[O:8][CH3:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][O:2][C@@:3]1([C:4]([CH3:5])=[O:6])[C@@:7]([O:8][CH3:9])([C:10]([CH3:11])=[O:12])[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[NH:18][CH:19]1[C:20]([CH3:21])=[O:22],water,298.15,26.502416501445488,-1.8486352544685192
3324,3772,[CH2:1]=[CH2:2].[CH3:3][CH-:4][N+:5]([CH3:6])=[C:7]([C:8](=[O:9])[O:10][CH3:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH2:1]1[CH2:2][CH:4]([CH3:3])[N:5]([CH3:6])[C:7]1([C:8](=[O:9])[O:10][CH3:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,16.674650370564972,-31.10297598059817
4547,5187,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,7.573609858918989,-36.92471451627495
1193,1297,[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[N:10]#[C:11][C-:12]([O+:13]=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[CH:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[O:13][C:12]2([C:11]#[N:10])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,8.111660319723354,-45.9413817261408
883,956,[CH3:13][NH:14][C:15](=[O:16])[N:17]=[NH+:18][N-:19][C:20](=[O:21])[O:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:17]([C:15]([NH:14][CH3:13])=[O:16])[NH:18][N:19]3[C:20](=[O:21])[O:22][CH3:23],water,298.15,20.687560107067046,-32.88808215925963
5165,5863,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[NH:20][C:21]2([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,30.06476231326165,7.926760517849479
1038,1131,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]([CH3:15])=[O:16])[N+:17]([CH3:18])=[C:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]([CH3:15])=[O:16])[N:17]([CH3:18])[C:19]1([CH3:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,21.98308080393356,-48.59185673042276
166,183,[CH2:1]=[C:2]([O:3][CH3:4])[O:5][CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][O-:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH2:1]1[C:2]([O:3][CH3:4])([O:5][CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:14](=[O:15])[O:16][CH3:17])[NH:12][O:13]1,water,298.15,32.88667530660049,2.5005536730536804
1915,2123,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[O+:22][O-:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[O:23][O:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,11.765539649190428,-48.6701250702194
327,356,[CH3:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:15]([C:16]#[N:17])[NH:14][C:13]3([C:11]([CH3:10])=[O:12])[C:18]([CH3:19])=[O:20],water,298.15,13.12800781848,-40.57914370937164
